US04316893
Preparation of 1-n-Decylazacyclopentan-2-one having the formula
18.8 g (0.22 M) of γ-butyrolactone and 34.6 g (0.22 M) of n-decylamine were mixed and heated to 180° in a round bottom flask equipped with a condenser and a Dean-Stark trap for 22 hours. The dark brown reaction mixture was distilled at reduced pressure to yield 40.9 g (82.5%) of colorless product; b.p. 150°-155°/0.5-1 mm.

reactant | γ-butyrolactone | 0.22 M, 18.8 g | C1(CCCO1)=O | C4H6O2
reactant | n-decylamine | 0.22 M, 34.6 g | C(CCCCCCCCC)N | C10H23N
product | 1-n-Decylazacyclopentan-2-one | 40.9 g, 82.5% | C(CCCCCCCCC)N1C(CCC1)=O | C14H27NO
